US03939276
A mixture of 2-butyrylfluorene (11.3 g.), powdered potassium hydroxide (4.16 g.) and 100% hydrazine hydrate (9 ml.) in ethylene glycol (104 ml.) was refluxed for 1 hour with stirring. The mixture was then slowly distilled until the boiling-point reached 185° and then heated to reflux for 3 hours. The cooled mixture was treated with water (ca. 300 ml.) and the product was isolated with ether in the usual manner. Recrystallisation from methanol gave 2-butylfluorene, m.p. 65°-66.5°.

reactant | 2-butyrylfluorene | 11.3 g | C(CCC)(=O)C1=CC=2CC3=CC=CC=C3C2C=C1 | C17H16O
reactant | potassium hydroxide | 4.16 g | [OH-].[K+]
reactant | hydrazine hydrate | 9 ml | O.NN
solvent | ethylene glycol | 104 ml | C(CO)O | C2H6O2
product | 2-butylfluorene | C(CCC)C1=CC=2CC3=CC=CC=C3C2C=C1 | C17H18
